US04495104
To a solvent mixture of dimethylformamide (10 ml) and sulfolane (10 ml) containing p-toluenesulfonic acid (100 mg) is added 7-oxo-16-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)hexadecanoic acid (1.75 g) and p-toluenesulfonyl hydrazide (930 mg) at 100° C. After 5 minutes, cyclohexane (10 ml) and sodium cyanoborohydride (1.0 g) are added. The reaction is conducted at 100° C. for 20 minutes. Then, at room temperature, a saturated aqueous solution of sodium chloride (100 ml) is added, followed by extraction with ether (50 ml×2). The ether layers are combined, washed with water, 1N--HCl and water in that order, and dried over anhydrous sodium sulfate. The solvent is distilled off, and the residue is dissolved in chloroform and subjected to column chromatography on silica gel, elution being carried out with chloroform. The fractions containing the desired compound are pooled and the solvent is distilled off. To the crystalline residue is added petroleum ether and, after cooling, the crystals are collected by filtration. The above procedure yields 970 mg of 16-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)hexadecanoic acid, m.p. 45° C.-46° C.

reactant | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 7-oxo-16-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)hexadecanoic acid | 1.75 g | O=C(CCCCCC(=O)O)CCCCCCCCCC1=C(C(=C(C=C1C)OC)OC)O | C25H40O6
reactant | sodium cyanoborohydride | 1.0 g | C(#N)[BH3-].[Na+]
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | cyclohexane | 10 ml | C1CCCCC1 | C6H12
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 16-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)hexadecanoic acid | 970 mg | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCCCCCCCC(=O)O | C25H42O5
